US05206240
Step D: Preparation of 1,3-Dihydro-1-oxospiro[2H-indene-2,4'-piperidine]
A solution of 3.66 g (12.0 mmoles) 1'-benzoyl-1,3-dihydro-1-oxospiro-[2H-indene-2,4'-piperidine] in 90 ml ethanol and 30 ml 6N hydrochloric acid was heated at reflux for 42 hours. An additional 10 ml 6N hydrochloric acid was added and the solution was heated at reflux for 6 hours. The cooled solution was concentrated in vacuo to remove ethanol and the resulting aqueous solution was washed with 2×20 ml ethyl acetate. The aqueous layer was made basic with 10N sodium hydroxide and extracted with 3×75 ml ethyl acetate. The extract was washed with 20 ml water and brine, dried, and the solvent was removed in vacuo to give 1.87 g (77%) product as an oil.

reactant | 1'-benzoyl-1,3-dihydro-1-oxospiro-[2H-indene-2,4'-piperidine] | 12.0 mmoles, 3.66 g | C(C1=CC=CC=C1)(=O)N1CCC2(CC1)C(C1=CC=CC=C1C2)=O | C20H19NO2
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 6N, 30 ml | Cl | ClH
solvent | hydrochloric acid | 6N, 10 ml | Cl | ClH
product | 1,3-Dihydro-1-oxospiro[2H-indene-2,4'-piperidine] | 1.87 g, 77% | O=C1C2=CC=CC=C2CC12CCNCC2 | C13H15NO
